US05025036
A mixture of 0.194 g (2.6 mmol) of 6-bromo-1-(3,4-dimethoxy-2,5,6-trimethylphenyl)-1-hexanone, 0.55 g (2.6 mmol) of 2,4-dihydroxy-3-propylbenzoic acid methyl ester and 1.10 g (7.8 mmol) of potassium carbonate in 20 mL of acetone and 2 mL of DMF was stirred at reflux for 17 hours. After workup as in Example 16, the crude product was purified by chromatography on 100 g of silica gel. Elution with 10% ethyl acetate-hexane gave 1.05 g (83% yield) of 4-[[6-(3,4-dimethoxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid methyl ester. The nmr spectrum was consistent with the structure and the mass spectrum gave the molecular ion at m/z 486 (C28H28O7).

reactant | 6-bromo-1-(3,4-dimethoxy-2,5,6-trimethylphenyl)-1-hexanone | 2.6 mmol, 0.194 g | BrCCCCCC(=O)C1=C(C(=C(C(=C1C)C)OC)OC)C | C17H25BrO3
reactant | 2,4-dihydroxy-3-propylbenzoic acid methyl ester | 2.6 mmol, 0.55 g | COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C11H14O4
reactant | potassium carbonate | 7.8 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[[6-(3,4-dimethoxy-2,5,6-trimethylphenyl)-6-oxohexyl]oxy]-2-hydroxy-3-propylbenzoic acid methyl ester | 1.05 g, 83% yield | COC(C1=C(C(=C(C=C1)OCCCCCC(=O)C1=C(C(=C(C(=C1C)C)OC)OC)C)CCC)O)=O | C28H38O7
